US07482341B2
Step C]: N-(5-Cyclopropylmethoxymethyl-6-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide
This material was prepared in analogy to example 86 step A] from N-(5-Hydroxymethyl-6-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide (0.445 g) and bromomethyl cyclopropane (0.275 g) as a light yellow oil (0.357g). MS (ESI): 277.2 (MH+).

reactant | N-(5-Hydroxymethyl-6-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 0.445 g | OCC=1C=CC(=NC1C)NC(C(C)(C)C)=O | C12H18N2O2
reactant | bromomethyl cyclopropane | 0.275 g | BrCC1CC1 | C4H7Br
product | N-(5-Cyclopropylmethoxymethyl-6-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide | C1(CC1)COCC=1C=CC(=NC1C)NC(C(C)(C)C)=O | C16H24N2O2
